US04328230
Benzyltrimethylammonium hydroxide (40% aqueous solution) (3 drops) was added to a stirred solution of 1-ethylamino-3-hydroxy-4-propyl-5,6,7,8-tetrahydronaphthalene (2.33 g) and dimethyl acetylene dicarboxylate (1.42 g) in methanol (10 ml). The mixture was heated at reflux for 8 hours, cooled, filtered and the methanol removed in vacuo. The resulting oil, a mixture of the cis and trans tetrahydronaphthylamino acrylic acid esters, was heated on a steam bath with polyphosphoric acid (10 g) for 2 hours. The mixture was cooled, poured into water and the solution adjusted to pH7 with sodium bicarbonate. The resulting mixture was extracted with ethyl acetate. The extracts were dried (magnesium sulphate) and evaporated in vacuo giving crude tetrahydrobenzo quinoline-2-carboxylic acid methyl ester as a sticky solid.

reactant | 1-ethylamino-3-hydroxy-4-propyl-5,6,7,8-tetrahydronaphthalene | 2.33 g | C(C)NC1=CC(=C(C=2CCCCC12)CCC)O | C15H23NO
reactant | dimethyl acetylene dicarboxylate | 1.42 g | C(#CC(=O)OC)C(=O)OC | C6H6O4
catalyst | Benzyltrimethylammonium hydroxide | 3 drops | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | methanol | 10 ml | CO | CH4O
product | tetrahydrobenzo quinoline-2-carboxylic acid methyl ester | COC(=O)C1NC2=C3C(=CC=C2CC1)C=CC=C3 | C15H15NO2
